US05977025
Preparation of Ethyl 2-methyl-2-(6-methyl-5-phenyl-2,3-dihydro-4-oxo-4H-1,3-oxazin-3-yl)-propionate (Compd. No. 636)
To a mixture of 2-methyl-2-(6-methyl-5-phenyl-2,3-dihydro-4-oxo-4H-1,3-oxazin-3-yl)-propionic acid (0.83 g) and potassium carbonate (0.45 g) in 4 ml of dimethylformamide (DMF) was added ethyl iodide (0.56 g), and the mixture was stirred at 60° C. for 5 h. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated. The residue was purified by chromatography on a silica gel column to get the captioned compound (0.87 g).

reactant | 2-methyl-2-(6-methyl-5-phenyl-2,3-dihydro-4-oxo-4H-1,3-oxazin-3-yl)-propionic acid | 0.83 g | CC(C(=O)O)(C)N1COC(=C(C1=O)C1=CC=CC=C1)C | C15H17NO4
reactant | potassium carbonate | 0.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 0.56 g | C(C)I | C2H5I
reactant | water | O | H2O
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-methyl-2-(6-methyl-5-phenyl-2,3-dihydro-4-oxo-4H-1,3-oxazin-3-yl)-propionate | 0.87 g | CC(C(=O)OCC)(C)N1COC(=C(C1=O)C1=CC=CC=C1)C | C17H21NO4
